Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ man with a history of recurrent aspirations, 
multiple
admissions for aspiration pneumonia, atrial fibrillation status
post watchman implant, essential tremor and chronic diastolic
heart failure who presents for recurrent episode of aspiration 
at
home.  Of note the patient was last admitted in ___ 
and
discharged on ___ ___t home and course
complicated by recurrent aspiration pneumonia while in-house.

The patient indicates that he has been his usual health, feeling
well and had no complaints up until yesterday.  In fact he
indicates that yesterday he was shopping, driving his car and
overall felt well.  He notes that around 11 ___ last night he
started having chills, cold sensation and restlessness.  He went
to bed but he was awake most of the night feeling weak, short of
breath and generally unwell.  He was unable to get up to go to
the bathroom in fact he soiled himself multiple times as result
of this.  By the time morning came around he was so fatigued he
is unable to get out of bed and had developed a fever, chills 
and
diaphoresis at that point in time.  He uses medical alert
bracelet and called an ambulance.
 
In the ___, initial vitals were:  99.5 120 122/49 18 81% RA.  
Exam
was notable for somewhat distress and otherwise normal 
neurologic
exam.  Respiratory exam is not documented in the ___ note.  Labs
were notable for profound leukocytosis to 25.8 with predominant
neutrophils.  Otherwise metabolic panel was largely stable and a
lactate of 2.2.  Flu swab was negative.  Chest x-ray was 
obtained
and was concerning for acute aspiration pneumonia.  She was
treated with IV vancomycin and Pipracil and tazobactam and
admission were requested to medicine.  While the patient was in
the emergency department he had acute episode of hypotension 
with
blood pressure of 87/38.  He received 1 L of IV fluid bolus and
his blood pressure promptly responded to 112/54 and improvement
in heart rate to the ___.
 
On the floor, the patient indicates he feels markedly improved
from prior.  His breathing is comfortable he denies orthopnea,
PND, cough, sputum production.  He indicates that he has
recurrent episodes of aspiration like this and always he
rebounded quite quickly.  He denies any current fevers, chills,
diaphoresis.  He denies any nausea, vomiting, diarrhea.
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or
gain. Denies headache, sinus tenderness, rhinorrhea or
congestion. Denies cough, shortness of breath. Denies chest pain
or tightness, palpitations. Denies nausea, vomiting, diarrhea,
constipation or abdominal pain. No recent change in bowel or
bladder habits. No dysuria. Denies arthralgias or myalgias.
Otherwise ROS is negative.
 
Past Medical History:
-Atrial fibrillation, off anticoagulation, now being monitored
for atrial fibrillation burden with watchman device
-Prostate cancer
-History of GI bleeds, AVM and terminal ileum
-Chronic diastolic heart failure
-Essential tremor, movement disorder-pending workup
-Chronic recurrent aspiration events on a nectar thickened diet
 
Social History:
___
Family History:
Mother with heart disease
 
Physical Exam:
Admission Exam:
Vitals: 98.2 PO122 / 81 R Lying 69 18 96 4L 
Pain Scale: ___ 
General: Patient appears overall well and robust when
encountered.  He is in good humor, pleasant and appropriate. 
Alert, oriented and in no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP low, no LAD appreciated
Lungs: Clear to auscultation on the right, moving air well, only
very faint rales predominantly on the left side with reduced
breath sounds over the left  
CV: Regular rate and rhythm, S1 and S2 clear and of good 
quality,
no murmurs.  ___ murmur right upper sternal border
Abdomen: soft, non-tender, non-distended, normoactive bowel
sounds throughout, no rebound or guarding
Ext: Warm, well perfused, full distal pulses, no clubbing,
cyanosis or edema    
Neuro: CN2-12 grossly in tact, motor and sensory function 
grossly
intact in bilateral UE and ___, symmetric.  Mild essential tremor
including of his jaw at rest.

Discharge Exam:
___ 1124 Temp: 97.6 PO BP: 112/66 HR: 74 RR: 18 O2 sat: 95% 
O2 delivery: RA
AOx3
Lungs CTAB, moving air well and symmetrically
Ambulatory saturations 95-96% on RA
 
Pertinent Results:
Admission Labs
___ 04:15AM BLOOD WBC-25.8* RBC-4.43* Hgb-11.5* Hct-38.2* 
MCV-86 MCH-26.0 MCHC-30.1* RDW-16.3* RDWSD-51.1* Plt ___
___ 04:15AM BLOOD Neuts-89.3* Lymphs-3.0* Monos-6.4 
Eos-0.0* Baso-0.3 NRBC-0.2* Im ___ AbsNeut-22.98* 
AbsLymp-0.78* AbsMono-1.66* AbsEos-0.01* AbsBaso-0.07
___ 04:15AM BLOOD Glucose-111* UreaN-27* Creat-1.2 Na-143 
K-3.8 Cl-102 HCO3-25 AnGap-16
___ 04:15AM BLOOD ALT-25 AST-45* AlkPhos-117 TotBili-1.6*
___ 04:15AM BLOOD Lipase-29
___ 04:15AM BLOOD cTropnT-<0.01
___ 04:15AM BLOOD Albumin-4.2 Calcium-9.1 Phos-2.4* Mg-1.7

Discharge Labs:
___ 07:55AM BLOOD WBC-13.0* RBC-3.49* Hgb-8.9* Hct-30.6* 
MCV-88 MCH-25.5* MCHC-29.1* RDW-16.7* RDWSD-53.4* Plt ___
 
Imaging:
Large opacification along the left middle and lower lung field 
with corollary on lateral consistent with lingular and left 
lower lobe pneumonia.  Likely small left parapneumonic effusion.
 
 
Brief Hospital Course:
___ is a ___ male with a history of recurrent aspiration 
events who presented with signs and symptoms of recurrent 
aspiration pneumonia.
    
#Hypoxemic respiratory failure: Requiring up to 6 L nasal 
cannula in the emergency department 
#Acute aspiration pneumonia:
#Acute aspiration pneumonitis:
#Recurrent and chronic aspirations
Patient presented with acute onset of respiratory failure after 
feeling his usual self and demonstrated prompt improvement back 
to normal within 24 hours. Picture most likely repreesnts acute 
aspiration pneumonitis.  He was also has weaned to RA within 24 
hours of admission. Typically this would not require antibiotics 
but given the extensive infiltrate seen on chest x-ray with 
associated effusion as well as a white count of 26,000 with 
associated predominant PMNs and given his history of prior 
pneumonias elected to treat for CA-PNA with antibiotics.  ___ 
MD comments did make note of possible episode of VT seeing on 
telemetry and possible prolonged QT though this was not captured 
on EKG and EKG performed on arrival to the floor with a QT of 
430.  Patient is also not on any current QT prolonging agents 
and did receive levofloxacin in the past without issue.  Repeat 
EKG morning of discharge was unchanged from prior still with QTc 
of <430 while on the quinolone. Discharged to complete 5 day 
course of Levofloxacin
  
#Benign essential tremor:
#Movement disorder:
Chronic, stable continued primidone, propanolol
  
#Chronic atrial fibrillation, status post watchman implant, no
longer an anticoagulation. Chronic, stable continued propanolol

#GERD:
Chronic, stable, continued pantoprazole

#Neuropathy:
Chronic, stable, continued gabapentin

#Chronic diastolic CHF: LVEF greater than 55%, chronic, stable 
without evidence of volume overload during inpatient stay. 
Continued home furosemide
  

Transitional issues:
- DNaR/OKInt for short term. Patient is clear he would not want 
prolonged intubation or life-sustaining measures
- HCP: ___ ___ friend/HCP
- Should continue to work with SLS to reduce risk of aspiration 
events
- Diet: Regular with nectar thickened liquids
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Ferrous Sulfate 325 mg PO DAILY 
4. Furosemide 20 mg PO DAILY 
5. Gabapentin 200 mg PO TID 
6. Multivitamins 1 TAB PO DAILY 
7. Pantoprazole 40 mg PO Q24H 
8. PrimiDONE 125 mg PO BID 
9. Propranolol LA 60 mg PO DAILY 
10. Vitamin D 1000 UNIT PO DAILY 
11. Glucosamine (glucosamine sulfate) 1000 mg oral BID 

 
Discharge Medications:
1.  Levofloxacin 750 mg PO DAILY 
RX *levofloxacin 750 mg 1 tablet(s) by mouth Daily Disp #*4 
Tablet Refills:*0 
2.  Aspirin 325 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Ferrous Sulfate 325 mg PO DAILY  
5.  Furosemide 20 mg PO DAILY  
6.  Gabapentin 200 mg PO TID  
7.  Glucosamine (glucosamine sulfate) 1000 mg oral BID  
8.  Multivitamins 1 TAB PO DAILY  
9.  Pantoprazole 40 mg PO Q24H  
10.  PrimiDONE 125 mg PO BID  
11.  Propranolol LA 60 mg PO DAILY  
12.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Active:
Acute aspiration pneumonia
Acute hypoxemic respiratory failure
Can be acquired pneumonia

Chronic:
Essential tremor
Chronic diastolic heart failure
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr ___,
    
It was a pleasure caring for you during this hospitalization.  
You admitted to ___ with acute 
onset shortness of breath, cough, fever and chills.  This is all 
thought related to acute aspiration pneumonia.  You promptly 
improved in your breathing and resolution of fevers.  You are 
being treated for possible bacterial pneumonia with levofloxacin 
and should complete a 5 day total course of this medication.

There is a pleasure caring for you during her stay, her 
___ medical team at ___
 
Followup Instructions:
___